US07582773B2
Step 1: Synthesis of 5-Bromo-1,3-dimethyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 2 of example 3. Thus, 5-bromo-3-methyl-2-phenyl-1H-indole (1.413 g, 4.938 mmol) was reacted with k-t-butoxide (0.582 g, 5.185 mmol) and methyl iodide (0.736 g, 5.185 mmol) in DMF (15 ml) to give the desired product (1.364 g, 4.544 mmol, 92%) as an off-white solid, mp 77.5-80° C. 1H NMR (DMSO-d6) δ 2.17 (s, 3H), 3.58 (s, 3H), 7.27 (dd, J=1.8, 8.6 Hz, 1H), 7.42-7.48 (m, 4H), 7.54 (t, J=8.1 Hz, 2H), 7.71 (d, J=1.8 Hz, 1H); [EI], m/z 299/301 (M)+.

reactant | 5-bromo-3-methyl-2-phenyl-1H-indole | 4.938 mmol, 1.413 g | BrC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)C | C15H12BrN
reactant | methyl iodide | 5.185 mmol, 0.736 g | CI | CH3I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-1,3-dimethyl-2-phenyl-1H-indole | 4.544 mmol, 1.364 g, 92% | BrC=1C=C2C(=C(N(C2=CC1)C)C1=CC=CC=C1)C | C16H14BrN
